US08183250B2
Methyl-5-oxo-4,5-dihydropyrazolo[1,5-a]quinazoline-3-carboxylate
A mixture of 2-hydrazinylbenzoic acid hydrochloride (10 g, 53 mmol), 2-(ethoxymethylene)malononitrile (6.5 g, 53.2 mmol) and sodium ethoxide (4.85 g, 257 mmol) in EtOH (100 mL) was refluxed overnight then cooled to ambient temperature. Water was added and the mixture was stirred at ambient temperature for 1 h then filtered. The solid was washed with H2O, EtOH and Et2O then dried.

reactant | 2-hydrazinylbenzoic acid hydrochloride | 53 mmol, 10 g | Cl.N(N)C1=C(C(=O)O)C=CC=C1
reactant | 2-(ethoxymethylene)malononitrile | 53.2 mmol, 6.5 g | C(C)OC=C(C#N)C#N | C6H6N2O
reactant | sodium ethoxide | 257 mmol, 4.85 g | [O-]CC.[Na+]
reactant | Water | O | H2O
solvent | EtOH | 100 mL | CCO | C2H6O
product | Methyl-5-oxo-4,5-dihydropyrazolo[1,5-a]quinazoline-3-carboxylate | COC(=O)C=1C=NN2C1NC(C1=CC=CC=C21)=O | C12H9N3O3
